US06900215B2
2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol was coupled with 2-fluoro-3-(pyridin-2-yl)benzeneboronic acid as described in Example 1 to give 2-[3-(2-fluoro-3-(pyridin-2-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol as a white solid. Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (360 MHz, DMSO) 1.57 (6H, s), 7.62 (1H, dd, J 7 and 5), 7.64 (1H, s), 7.80-7.85 (1H, m), 7.89 (1H, d, J 7), 8.03 (1H, s), 8.10-8.19 (2H, m), 8.62 (1H, s), 8.83 (1H, d, J 5), 9.35 (1H, dd, J 7 and 3); m/z (ES+) 349 (M++H).

reactant | 2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | 2-fluoro-3-(pyridin-2-yl)benzeneboronic acid | FC1=C(C=CC=C1C1=NC=CC=C1)B(O)O | C11H9BFNO2
product | 2-[3-(2-fluoro-3-(pyridin-2-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | FC1=C(C=CC=C1C1=NC=CC=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O | C20H17FN4O
